US09145376B2
2-cyanoethanethioamide (300 mg, 3.00 mmol) and bromoethane (299 μL, 4.00 mmol) were added to an ethanolic solution of sodium ethoxide (4.00 mmol, 3 mL). The resulting mixture was stirred for 6 hours, 2-amino-4-chlorobenzoic acid (500 mg, 2.91 mmol) was added, and the reaction was refluxed overnight with stirring. A solid precipitate formed upon cooling of the reaction mixture, which was recovered by vacuum filtration and washed sequentially with ethanol, water, ethanol, and diethyl ether. The solid was then dried to yield 2-(7-chloro-4-oxo-1,4-dihydroquinazolin-2-yl)acetonitrile (118 mg, 18%). 1H NMR (400 MHz, DMSO-d6) δ ppm 4.19 (s, 2H), 7.57 (dd, J1=8.5 Hz, J2=2.1 Hz, 1H), 7.74 (d, J=2.0 Hz, 1H), 8.09 (d, J=8.4 Hz, 1H).

reactant | 2-cyanoethanethioamide | 3.00 mmol, 300 mg | C(#N)CC(N)=S | C3H4N2S
reactant | bromoethane | 4.00 mmol, 299 μL | BrCC | C2H5Br
reactant | sodium ethoxide | 4.00 mmol, 3 mL | [O-]CC.[Na+]
reactant | 2-amino-4-chlorobenzoic acid | 2.91 mmol, 500 mg | NC1=C(C(=O)O)C=CC(=C1)Cl | C7H6ClNO2
product | 2-(7-chloro-4-oxo-1,4-dihydroquinazolin-2-yl)acetonitrile | 118 mg, 18% | ClC1=CC=C2C(N=C(NC2=C1)CC#N)=O | C10H6ClN3O
